US07615635B2
A mixture of 2-cyclopentylmethyl-malonic acid (24.90 g, 133.7 mmol), piperidine (15.9 mL, 160.8 mmol), 37% aqueous formaldehyde (51.0 mL, 647.2 mmol), and EtOH (250 mL) is stirred at reflux for 16 hours. The reaction is quenched with 1N HCl to a pH=1, and the mixture is extracted with EtOAc. The EtOAc layers are combined, dried over Na2SO4, and concentrated. The crude product is purified by flash chromatography (SiO2, 10% acetone in DCM), which gives 2-cyclopentylmethyl-acrylic acid (17.65 g, 86% yield) as an oil.

reactant | 2-cyclopentylmethyl-malonic acid | 133.7 mmol, 24.90 g | C1(CCCC1)CC(C(=O)O)C(=O)O | C9H14O4
reactant | piperidine | 160.8 mmol, 15.9 mL | N1CCCCC1 | C5H11N
reactant | formaldehyde | 647.2 mmol, 51.0 mL | C=O | CH2O
solvent | EtOH | 250 mL | CCO | C2H6O
product | 2-cyclopentylmethyl-acrylic acid | 17.65 g, 86% yield | C1(CCCC1)CC(C(=O)O)=C | C9H14O2
